US04017492
7-Chloro-2-[[1-(methoxycarbonyl)ethylidene]-hydrazino]-5-phenyl-3H-1,4-benzodiazepine
To a solution of 0.39 g. (0.001 mole) of 7-chloro-2-[(1-carboxyethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine is added 0.164 g. (0.0011 mole) of 3-methyl-1-p-tolyltriazene. After standing at room temperature (22°-25° C.) overnight, the solution is concentrated, then diluted with ether, filtered and evaporated to give a solid. This solid is redissolved in chloroform, diluted with ether and pentane to give .17 g. of 7-chloro-2-[[1-(merhoxycarbonyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-[(1-carboxyethylidene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | 0.001 mole | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(C)C(=O)O)C2=CC=CC=C2)C1 | C18H15ClN4O2
reactant | 3-methyl-1-p-tolyltriazene | 0.0011 mole | CNN=NC1=CC=C(C=C1)C | C8H11N3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 7-Chloro-2-[[1-(methoxycarbonyl)ethylidene]-hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(C)C(=O)OC)C2=CC=CC=C2)C1 | C19H17ClN4O2
